US07208629B2
4-Bromo-N-cyclopropylmethylbenzamide (2.0 g, 7.87 mmol), (3-carboxy-6-methylphenyl) pinacol borane (2.06 g, 7.87 mmol), tetrakis(triphenylphosphine)palladium (900 mg, 0.79 mmol) and aqueous sodium carbonate (1M, 50 ml) in DME (100 ml) were heated at 90° C. for 18 h. The organic phase was absorbed onto silica and purified by flash chromatography (silica) eluting with DCM/ethanol/ammonia (20:8:1) to give {4′-[(cyclopropylmethylamino)carbonyl]-6-methyl-1,1′-biphenyl-3-yl}carboxylic acid (1.9 g, 78%). LCMS: retention time 3.18 min, MH+310.

reactant | 4-Bromo-N-cyclopropylmethylbenzamide | 7.87 mmol, 2.0 g | BrC1=CC=C(C(=O)NCC2CC2)C=C1 | C11H12BrNO
reactant | (3-carboxy-6-methylphenyl) pinacol borane | 7.87 mmol, 2.06 g | B.C(=O)(O)C=1C=C(C(=CC1)C)CC(O)(C)C(C)(C)O
reactant | sodium carbonate | 1M, 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 100 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.79 mmol, 900 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {4′-[(cyclopropylmethylamino)carbonyl]-6-methyl-1,1′-biphenyl-3-yl}carboxylic acid | 1.9 g, 78% | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)C(=O)O | C19H19NO3
